data/oMe_Silver.jsonl
{"reaction_id": "NR-213_1-C(C)(C)C_2-C2OC2_3-C2CC2_4-C(=O)C","level": "medium","name": "Payne Epoxidation","reactants_smiles": ["OO","N#C(C(C)(C)C)","C(C2OC2)=C(C2CC2)(C(=O)C)"],"products_smiles": ["C(C2OC2)1OC1(C2CC2)(C(=O)C)"],"conditions": "base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]O","step_weight": 0,"rationale": "Base deprotonates hydrogen peroxide, generating a hydroperoxide anion stabilized by resonance and inductive effects, increasing nucleophilicity for the next step."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[N-]=C(OO)(C(C)(C)C)","step_weight": 0,"rationale": "The hydroperoxide anion attacks the electrophilic carbon of the isocyanide, whose electron-deficient nature arises from the polarized C≡N bond."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OOC(=N)(C(C)(C)C)","step_weight": 0,"rationale": "Proton transfer converts the anionic intermediate into a neutral peroxyimidate, stabilizing the leaving group for the upcoming oxygen transfer."},{"step": 4,"type": "pericyclic","subtype": "group_transfer","intermediate_smiles": "C(C2OC2)1OC1(C2CC2)(C(=O)C)","step_weight": 0,"rationale": "A concerted pericyclic oxygen transfer occurs, driven by the electrophilicity of the alkene and the strong thermodynamic preference for forming the stable three-membered epoxide ring."}],"description": "Under basic conditions, hydrogen peroxide is deprotonated to form a more nucleophilic hydroperoxide anion, which attacks the electrophilic carbon of an isocyanide to form a peroxyimidate. Subsequent proton transfer and a concerted oxygen transfer to the alkene yield the epoxide via a Payne-type mechanism."}
{"reaction_id": "NR-149_1-c1ccccc1_2-C","name": "Myers Asymmetric Alkylation","level": "medium","reactants_smiles": ["c1ccccc1CC(=O)N(C)C(C)C(O)c1ccccc1","BrC"],"products_smiles": ["CC(c1ccccc1)C(=O)N(C)C(C)C(O)c1ccccc1"],"conditions": "LDA","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1/C=C(\\[O-])/N(C)C(C)C([O-])c1ccccc1","rationale": "LDA, a strong non-nucleophilic base, selectively deprotonates the α-position due to acidity enhanced by resonance stabilization of the enolate through the carbonyl and auxiliary."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "CC(c1ccccc1)C(=O)N(C)C(C)C([O-])c1ccccc1","rationale": "The enolate acts as a strong nucleophile, attacking the electrophilic carbon of the alkyl bromide in an SN2 process, favored by the good leaving ability of bromide and minimal steric hindrance."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(c1ccccc1)C(=O)N(C)C(C)C(O)c1ccccc1","rationale": "The alkoxide intermediate is protonated under workup conditions, restoring the neutral alcohol and completing the formation of the alkylated product."}],"description": "Under strong base (LDA), the Myers auxiliary amide undergoes deprotonation to form a stabilized enolate, which then performs an SN2 alkylation with the alkyl bromide. Final protonation yields the chiral alkylated product with high stereocontrol from the auxiliary."}
{"reaction_id": "NR-305_1-C_2-N(C)C","level": "easy","name": "Tebbe-Petasis Olefination","reactants_smiles": ["O=C(C)(N(C)C)","C[Ti](C)(C1C=CC=C1)(C1C=CC=C1)"],"products_smiles": ["C=C(C)(N(C)C)","C","O=[Ti](C1C=CC=C1)(C1C=CC=C1)"],"conditions": "In situ generation of Tebbe/Petasis reagent","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C=[Ti](C1C=CC=C1)(C1C=CC=C1)","step_weight": 0,"rationale": "Thermal conditions promote elimination of a methyl group from titanium, forming a reactive Ti–carbene stabilized by π-donating cyclopentadienyl ligands."},{"step": 2,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(C)(N(C)C)O[Ti]([CH2]1)(C1C=CC=C1)(C1C=CC=C1)","step_weight": 0,"rationale": "The electrophilic Ti–carbene reacts with the nucleophilic carbonyl oxygen in a [2+2] cycloaddition, favored by orbital symmetry and the strong Ti–O bond formation."},{"step": 3,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C=C(C)(N(C)C)","step_weight": 0,"rationale": "Cycloreversion occurs to relieve ring strain, driven by formation of a stable Ti=O bond and the thermodynamically favored alkene product."}],"description": "The Tebbe-Petasis olefination converts a carbonyl group into an alkene via a titanium–carbene complex. The reagent is generated in situ, undergoes [2+2] cycloaddition with the carbonyl, and then eliminates to yield the alkene and a titanium oxo species."}
